US07241791B2
Step 2: 4-(7-fluoro-2-propyl-1H-indazol-3-yl)phenol
Prepared according to Method D step C from 2-propyl-7-fluoro-3-(4-methoxyphenyl)-methyl-2H-indazole (0.006 g, 0.021 mmol), boron tribromide (0.05 mL, 0.5 mmol) and 0.2 mL of cyclohexene to give the product (0.0006 g).

reactant | 2-propyl-7-fluoro-3-(4-methoxyphenyl)-methyl-2H-indazole | 0.021 mmol, 0.006 g | C(CC)N1N=C2C(=CC=C(C2=C1C1=CC=C(C=C1)OC)C)F | C18H19FN2O
reactant | boron tribromide | 0.5 mmol, 0.05 mL | B(Br)(Br)Br | BBr3
reactant | cyclohexene | 0.2 mL | C1=CCCCC1 | C6H10
product | 4-(7-fluoro-2-propyl-1H-indazol-3-yl)phenol | 0.0006 g | FC=1C=CC=C2C(N(NC12)CCC)C1=CC=C(C=C1)O | C16H17FN2O
